US07910613B2
2-Amino-N-hydroxy-4-phenyl-thiazole-5-carboxamidine (Intermediate for 5-[1,2,4]oxadiazol-3-yl-4-phenyl-thiazol-2-ylamine)
2-Amino-4-phenyl-thiazole-5-carbonitrile (0.13 g, 0.6 mmol) was suspended in 1:1 water/ethanol (v/v) (24 mL) and added hydroxylamine hydrochloride (1.47 g, 21 mmol) and potassium carbonate (1.86 g, 13 mmol). The reaction mixture was heated at reflux for 3 days, then the solvent was reduced and the aqueous phase was extracted with dichloromethane. The organic layer was washed with water and brine, and was dried over sodium sulfate. The solvent was evaporated to yield a yellow solid. Yield: 0.1 g, 66%.

reactant | 2-Amino-4-phenyl-thiazole-5-carbonitrile | 0.6 mmol, 0.13 g | NC=1SC(=C(N1)C1=CC=CC=C1)C#N | C10H7N3S
reactant | hydroxylamine hydrochloride | 21 mmol, 1.47 g | Cl.NO
reactant | potassium carbonate | 13 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | water ethanol | 24 mL | O.C(C)O
product | 2-Amino-N-hydroxy-4-phenyl-thiazole-5-carboxamidine | NC=1SC(=C(N1)C1=CC=CC=C1)C(=N)NO | C10H10N4OS
